US05688803
10-Methoxy-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione
2.4 g (0.0086 mol) of ethyl 2-hydroxy-5-methoxy-quinazolin-4-yl-carbazate in 50 ml of dimethylformamide were boiled under reflux for 3 hrs. The reaction mixture was cooled to room temperature and then poured on to ice-water. The precipitate was filtered off, washed with methanol and dried in a vacuum. There were obtained white crystals which were recrystallized from dimethylformamide. Yield: 0.32 g (16%) of 10-methoxy-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione as white crystals; m.p. >350° C.

reactant | ethyl 2-hydroxy-5-methoxy-quinazolin-4-yl-carbazate | 0.0086 mol, 2.4 g | OC1=NC2=CC=CC(=C2C(=N1)N(C(=O)OCC)N)OC | C12H14N4O4
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 10-Methoxy-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione | COC=1C=2C=3N(C(NC2C=CC1)=O)C(NN3)=O | C10H8N4O3
